US08808703B2
To a solution of (9H-fluoren-9-yl)methyl (R)-3-((R)-2-dodecanamido-3-(hexadecyloxy) propylthio)-1-(1-(hydroxymethyl)cyclopropylamino)-1-oxopropan-2-ylcarbamate (1 eq) was added 20% piperidine (50 eq) in acetonitrile. The resulting gel was diluted with DCM and sonicated for 3 minutes. The mixture was added to toluene and then concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 100% EtOAc then 0-10% MeOH/DCM to give N-((R)-1-((R)-2-amino-3-(1-(hydroxymethyl)cyclopropylamino)-3-oxopropylthio)-3-(hexadecyloxy)propan-2-yl)dodecanamide. 1H NMR (DMSO d-6): δ 8.13 (s, 2H), 7.73 (d, 2H), 4.68 (t, 2H), 3.89-3.97 (m, 2H), 3.35-3.44 (m, 5H), 3.20-3.24 (m, 1H), 2.59-2.74 (m, 4H), 2.32-2.34 (m, 1H), 2.05 (t, 2H), 1.42-1.50 (m, 4H), 1.21-1.28 (m, 40H), 0.85 (t, 6H), 0.67 (dd, 2H), 0.56 (dd, 2H). LRMS [M+H]=670.6.

reactant | (9H-fluoren-9-yl)methyl (R)-3-((R)-2-dodecanamido-3-(hexadecyloxy) propylthio)-1-(1-(hydroxymethyl)cyclopropylamino)-1-oxopropan-2-ylcarbamate | 1 eq | C(CCCCCCCCCCC)(=O)N[C@@H](CSC[C@@H](C(=O)NC1(CC1)CO)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)COCCCCCCCCCCCCCCCC | C53H85N3O6S
reactant | piperidine | 50 eq | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-((R)-1-((R)-2-amino-3-(1-(hydroxymethyl)cyclopropylamino)-3-oxopropylthio)-3-(hexadecyloxy)propan-2-yl)dodecanamide | N[C@@H](CSC[C@@H](COCCCCCCCCCCCCCCCC)NC(CCCCCCCCCCC)=O)C(=O)NC1(CC1)CO | C38H75N3O4S
